US08614327B2
Synthesis of 1,4,4-trimethyl-1,2,3,4-tetrahydroquinolin-7-amine
To a solution of tert-butyl 7-amino-4,4-dimethyl-2,3-dihydroquinoline-1-carboxylate (100 mg, 0.36 mmol) in THF (2.2 mL) under an inert atmosphere was added LiAlH4 (1.8 mL of 1 M, 1.8 mmol) dropwise. The reaction mixture was heated to reflux and stirred for 4 h. The reaction was cooled to room temperature and quenched with of 0.4 M NaOH solution (0.6 mL), the aqueous layer was extracted with DCM, dried over Na2SO4, filtered and concentrated to an orange oil. The residue was purified via reverse phase HPLC. LC/MS: m/z 191.5 (M+H)+ at 0.92 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | tert-butyl 7-amino-4,4-dimethyl-2,3-dihydroquinoline-1-carboxylate | 0.36 mmol, 100 mg | NC1=CC=C2C(CCN(C2=C1)C(=O)OC(C)(C)C)(C)C | C16H24N2O2
reactant | LiAlH4 | 1.8 mmol, 1 M, 1.8 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 2.2 mL | C1CCOC1 | C4H8O
product | 1,4,4-trimethyl-1,2,3,4-tetrahydroquinolin-7-amine | CN1CCC(C2=CC=C(C=C12)N)(C)C | C12H18N2
